US04987141
2-(N-methylsulphamoyl)pyrid-6-one was silylated with dimethyl-(1,1-dimethylethyl)chlorosilane in the presence of imadazole under standard conditions to give 2-[N-methylsulphamoyl]-6-[dimethyl-(1,1-dimethylethyl)silyloxy]pyridine

reactant | 2-(N-methylsulphamoyl)pyrid-6-one | CNS(=O)(=O)C=1NC(C=CC1)=O | C6H8N2O3S
reactant | dimethyl-(1,1-dimethylethyl)chlorosilane | C[Si](Cl)(C(C)(C)C)C | C6H15ClSi
product | 2-[N-methylsulphamoyl]-6-[dimethyl-(1,1-dimethylethyl)silyloxy]pyridine | CNS(=O)(=O)C1=NC(=CC=C1)O[Si](C(C)(C)C)(C)C | C12H22N2O3SSi
